US06809105B2
3-bromo-5-propoxypyridine
n-Propanol and 3,5-dibromopyridine were processed as described in Example 7A except that the heating time was extended to 4 hours. The reaction mixture was quenched onto ice/water, extracted with ethyl ether, and concentrated under reduced pressure. The residue was purified on silica gel (hexanes:ethyl acetate, 8:2) to provide the title compound as a colorless oil (25% yield). MS (DCI/NH3) m/z 216/218 (M+H)+.

reactant | 3,5-dibromopyridine | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | n-Propanol | C(CC)O | C3H8O
product | 3-bromo-5-propoxypyridine | 25% yield | BrC=1C=NC=C(C1)OCCC | C8H10BrNO
